US05204333
To a stirred solution of 3-cyclobutyl-3-hydroxymethyloxetane (2.84 g, 20 mmol) in dry dichloromethane (40 ml) and pyridine (3 ml) at 0° C. under nitrogen was added a solution of 4-iodobenzoyl chloride (5.33 g, 20 mmol) in dry dichloromethane (10 ml). The solution was stirred overnight at room temperature, washed with water, dried over anhydrous sodium sulphate and evaporated. (3-Cyclobutyloxetan-3-yl)methyl 4-iodobenzoate was obtained as a white solid (7.42 g, 99%) which was not purified further.

reactant | 3-cyclobutyl-3-hydroxymethyloxetane | 20 mmol, 2.84 g | C1(CCC1)C1(COC1)CO | C8H14O2
reactant | 4-iodobenzoyl chloride | 20 mmol, 5.33 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (3-Cyclobutyloxetan-3-yl)methyl 4-iodobenzoate | IC1=CC=C(C(=O)OCC2(COC2)C2CCC2)C=C1 | C15H17IO3
